US07495103B2
To a solution of methyl 2-tert-butyl-5-aminobenzoate (159 mg, 0.72 mmol) in THF (5 mL) was added dropwise LiAlH4 (1.4 mL, 1M in THF, 1.4 mmol) at 0° C. The reaction mixture was refluxed for 2 h, diluted with H2O and extracted with EtOAc. The combined organic layers were washed with brine and dried over MgSO4. After filtration, the filtrate was concentrated to give (2-tert-butyl-5-aminophenyl)methanol (E-8) (25 mg, 20%), which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.17 (d, J=8.5 Hz, 1H), 6.87 (d, J=2.6 Hz, 1H), 6.56 (dd, J=8.4, 2.7 Hz, 1H), 4.83 (s, 2H), 1.36 (s, 9H).

reactant | methyl 2-tert-butyl-5-aminobenzoate | 0.72 mmol, 159 mg | C(C)(C)(C)C1=C(C(=O)OC)C=C(C=C1)N | C12H17NO2
reactant | LiAlH4 | 1.4 mmol, 1M, 1.4 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | (2-tert-butyl-5-aminophenyl)methanol | 25 mg, 20% | C(C)(C)(C)C1=C(C=C(C=C1)N)CO | C11H17NO
